US07807677B2
A solution of methanesulfonyl chloride (0.593 mL, 7.62 mmol) in 1M NaOH (7.60 mL, 15.2 mmol) and THF (10 mL) was added drop wise to a stirred mixture of (L)-tert-leucine (1.0 g, 7.6 mmol), dissolved in THF (7.6 mL) and H2O (12 mL) at 0° C. The reaction mixture was stirred at 0° C. for 3 h and then at room temperature overnight. The mixture was acidified with 4M HCl and extracted with EtOAc. The organic phase was separated, dried (Na2SO4), filtered and concentrated under reduced pressure to give (2S)-2-methanesulphonylamino-3,3-dimethyl-butyric acid (0.486 g, 30%), which was analyzed by NMR and then used without further purification. The general procedure for the preparation of hydrazides described above was then followed using the crude (2S)-2-methanesulfonylamino-3,3-dimethyl-butyric acid (0.476 g, 2.27 mmol), EDAC (0.481 g, 2.51 mmol), HOBT (0.338 g, 2.50 mmol), NMM (0.275 mL, 2.50 mmol), benzylhydrazine×2HCl (0.489 g, 2.51 mmol) and Et3N (0.700 mL, 4.98 mmol) which gave the title compound (0.416 g, 58%) as a white solid.

reactant | methanesulfonyl chloride | 7.62 mmol, 0.593 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | NaOH | 15.2 mmol, 1M, 7.60 mL | [OH-].[Na+]
reactant | (L)-tert-leucine | 7.6 mmol, 1.0 g | N[C@@H](C(C)(C)C)C(=O)O | C6H13NO2
reactant | HCl | 4M | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 7.6 mL | C1CCOC1 | C4H8O
solvent | H2O | 12 mL | O | H2O
product | (2S)-2-methanesulphonylamino-3,3-dimethyl-butyric acid | 0.486 g, 30% | CS(=O)(=O)N[C@H](C(=O)O)C(C)(C)C | C7H15NO4S
